US09102688B2
3-Chloro-2-fluoro-N-quinolin-8-yl-benzenesulfonamide (Example Compound 62)
In a similar fashion using route 14 general procedure 27, 8-aminoquinoline (100 mg, 0.70 mmol), 3-chloro-2-fluorobenzenesulfonyl chloride (180 mg, 0.83 mmol) and DMAP (cat.) gave the title compound (80 mg, 35%) after purification by column chromatography with DCM as the eluent followed by trituration from EtOAc/n-hexane.

reactant | 8-aminoquinoline | 0.70 mmol, 100 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 3-chloro-2-fluorobenzenesulfonyl chloride | 0.83 mmol, 180 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)F | C6H3Cl2FO2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-Chloro-2-fluoro-N-quinolin-8-yl-benzenesulfonamide | 80 mg, 35% | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1C=CC=C2C=CC=NC12)F | C15H10ClFN2O2S
